US08242104B2
2-(1-isopropyl-3-methyl-1H-1,2,4-triazol-5-yl)-5,6-dihydroimidazo[1,2-d]pyrido[3,4-f][1,4]oxazepin-9-yl trifluoromethanesulfonate (790 mg, 1.7 mmol) was dissolved in N-methylpyrrolidinone (11 mL) and treated with veratrylamine (1.0 mL, 6.9 mmol) and triethylamine (1.9 mL, 14 mmol). The reaction mixture was heated at 120° C. overnight. The mixture was diluted with water and 20% MeOH in DCM and the layers separated. The aqueous phase was extracted into DCM/MeOH (3×), dried over sodium sulfate, filtered, and absorbed onto celite for purification by flash chromatography to afford N-(3,4-dimethoxybenzyl)-2-(1-isopropyl-3-methyl-1H-1,2,4-triazol-5-yl)-5,6-dihydroimidazo[1,2-d]pyrido[3,4-f][1,4]oxazepin-9-amine as a light yellow solid (190 mg, 23%). 1H NMR (400 MHz, DMSO) δ 8.99 (s, 1H), 7.75 (s, 1H), 6.95 (d, J=1.5 Hz, 1H), 6.92 (s, 1H), 6.88 (s, 1H), 6.02 (s, 1H), 5.85 (hept, J=6.6 Hz, 1H), 4.65 (s, 1H), 4.50-4.36 (m, 6H), 3.73 (s, 6H), 2.24 (s, 3H), 1.44 (d, J=6.6 Hz, 6H)

reactant | 2-(1-isopropyl-3-methyl-1H-1,2,4-triazol-5-yl)-5,6-dihydroimidazo[1,2-d]pyrido[3,4-f][1,4]oxazepin-9-yl trifluoromethanesulfonate | 1.7 mmol, 790 mg | FC(S(=O)(=O)OC1=CC2=C(C=3N(CCO2)C=C(N3)C3=NC(=NN3C(C)C)C)C=N1)(F)F | C17H17F3N6O4S
reactant | veratrylamine | 6.9 mmol, 1.0 mL | C(C1=CC(OC)=C(OC)C=C1)N | C9H13NO2
reactant | triethylamine | 14 mmol, 1.9 mL | C(C)N(CC)CC | C6H15N
solvent | N-methylpyrrolidinone | 11 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
solvent | MeOH | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-(3,4-dimethoxybenzyl)-2-(1-isopropyl-3-methyl-1H-1,2,4-triazol-5-yl)-5,6-dihydroimidazo[1,2-d]pyrido[3,4-f][1,4]oxazepin-9-amine | 190 mg, 23% | COC=1C=C(CNC2=CC3=C(C=4N(CCO3)C=C(N4)C4=NC(=NN4C(C)C)C)C=N2)C=CC1OC | C25H29N7O3
